US04159986
Using the procedure of Example 15, 6.65 gm of 4-methyl-thiophene-2-acetic acid and 5.96 gm of benzoyl chloride were reacted to obtain 4.87 gm of 4-methyl-5-benzoyl-thiophene-2-acetic acid melting at 86° C. The product occurred as a colorless solid soluble in benzene, ether, ethanol, chloroform and acetone and insoluble in water.

reactant | 4-methyl-thiophene-2-acetic acid | 6.65 gm | CC=1C=C(SC1)CC(=O)O | C7H8O2S
reactant | benzoyl chloride | 5.96 gm | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 4-methyl-5-benzoyl-thiophene-2-acetic acid | 4.87 gm | CC=1C=C(SC1C(C1=CC=CC=C1)=O)CC(=O)O | C14H12O3S
